US07825253B2
N2-(5-Methyl-furan-2-ylmethyl)-N5-pyridin-3-ylmethyl-quinoline-2,5-diamine
The title compound, MS: m/e=345.0 (M+H+), was prepared in accordance with the general method of example 1 from 5-bromo-2-chloroquinoline, 5-methyl-2-furanmethanamine and 3-picolylamine.

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 3-picolylamine | N1=CC(=CC=C1)CN | C6H8N2
product | N2-(5-Methyl-furan-2-ylmethyl)-N5-pyridin-3-ylmethyl-quinoline-2,5-diamine | CC1=CC=C(O1)CNC1=NC=2C=CC=C(C2C=C1)NCC=1C=NC=CC1 | C21H20N4O
